US07183445B2
4-(4-Hydroxy-phenyl)-6-methyl-5-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-cyclohex-3-enecarboxylic acid ethyl ester (38.4 mg, 0.0803 mmol, 1.0 eq.) in DCM (2 mL) at 0° C. was added DIBAL (1.5 M in toluene, 0.215 mL) and was stirred at 0° C. for 10 min, then at 25° C. for 30 min. The reaction mixture was quenched at 0° C. with brine, extracted with DCM, dried over MgSO4, then purified on SiO2 (15% MeOH/DCM) to yield 4-[4-hydroxymethyl-5-methyl-6-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-cyclohex-3-enyl]-phenol as yellowish foam.

reactant | 4-(4-Hydroxy-phenyl)-6-methyl-5-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-cyclohex-3-enecarboxylic acid ethyl ester | 0.0803 mmol, 38.4 mg, 1.0 eq. | C(C)OC(=O)C1CC=C(C(C1C)CC1=CC=C(C=C1)OCCN1CCCCC1)C1=CC=C(C=C1)O | C30H39NO4
reactant | DIBAL | 1.5 M, 0.215 mL | CC(C)C[AlH]CC(C)C
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-hydroxymethyl-5-methyl-6-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-cyclohex-3-enyl]-phenol | OCC1=CCC(C(C1C)CC1=CC=C(C=C1)OCCN1CCCCC1)C1=CC=C(C=C1)O | C28H37NO3
